US06534135B1
2,3-Bis-(3,4-dimethoxy-phenyl)-acrylonitile (1.83 g, 5.63 mmol) was dissolved in absolute dichloromethane (100 ml) and the obtained solution was cooled to 0° C. and maintained under nitrogen atmosphere. Boron trifluoride etherate (1.76 g, 12.39 mmol) was dropwise added (within 15 min) to the reaction mixture which was stirred for further 15 min at 0° C. At this temperature, pyridinium chlorochromate (PCC) (2.43 g, 11.26 mmol), was portionwise added (10 portions, 1 portion/min) to the reaction mixture which turned green-brown. After complete addition of PCC, the reaction mixture was stirred for further 10 min, poured into water (200 ml), and extracted with dichloromethane (2×200 ml). The combined organic extracts were dried over magnesium sulphate and evaporated under reduced pressure. The obtained brown residue was chromatographed on silica (CH2Cl2). This afford a yellow material which was further purified by crystallisation in ethanol/dichloromethane: 9/1 to give 2,3,6,7-tetramethoxy-phenanthrene-9-carbonitrile as white powder (yield 1.75 g, 96%).

reactant | 2,3-Bis-(3,4-dimethoxy-phenyl)-acrylonitile | 5.63 mmol, 1.83 g | COC=1C=C(C=CC1OC)C(C#N)=CC1=CC(=C(C=C1)OC)OC | C19H19NO4
reactant | Boron trifluoride etherate | 12.39 mmol, 1.76 g | B(F)(F)F.CCOCC
reactant | pyridinium chlorochromate | 11.26 mmol, 2.43 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,3,6,7-tetramethoxy-phenanthrene-9-carbonitrile | yield 1.75 g, 96% | COC1=CC=2C=C(C3=CC(=C(C=C3C2C=C1OC)OC)OC)C#N | C19H17NO4
